US09107914B2
Thereby, 0.1 mole of indole derivative was dissolved in DMF and 0.12 mole of the aldehyde was added with stirring. The reaction mixture was stirred at room temperature for 16 hours. After removal of the solvent, the resulting solid was re-crystallised twice in toluene and dried. In a further synthesis step, 0.07 mol of the solid re-crystallised in toluene and dried were dissolved in 600 ml of cumene and reflux-heated with 2.6 grams of Pd/C (10%) in a nitrogen atmosphere for 90 minutes. After addition of 100 ml of ethanol, the hot solution was filtrated, and the coal was extracted three times by 30 ml of hot ethanol. The combined liquid fractions were freed of solvent in vacuum, and the residue was crystallised in toluene to obtain the 1,3-disubstituted derivative of norharman.

reactant | indole | 0.1 mole | N1C=CC2=CC=CC=C12 | C8H7N
solvent | DMF | CN(C)C=O | C3H7NO
product | norharman | C=1C=CC2=C(C1)C=3C=CN=CC3N2 | C11H8N2
